US08202865B2
Step 2: 2′-Ethyl-2-(methoxymethyl)-1,1′-biphenyl-4-carboxylic acid
To a solution of methyl 2′-ethyl-2-(methoxymethyl)-1,1′-biphenyl-4-carboxylate (12 g, 0.0422 mol) in THF (150 mL) and water (30 mL), was added lithium hydroxide monohydrate (5.31 g, 0.1266 mol) in portions. After 12 h at RT, the reaction mixture was concentrated and the aqueous phase was acidified using conc. HCl and extracted with EtOAc. Then the organic layers were washed with water and brine solution. The solvents were dried over sodium sulphate and concentrated under reduced pressure to afford the title compound as a white solid (9 g, 80%). 1H NMR (DMSO-d6, 300 MHz) δ 12.9 (1H, bs), 8.08 (1H, s), 7.88-7.90 (1H, m), 7.34-7.35 (2H, m), 7.21-7.25 (2H, m), 7.03-7.05 (1H, m), 4.04-4.13 (2H, m), 3.16-3.18 (3H, s), 2.29-2.38 (1H, m), 2.19-2.24 (1H, m), 0.92-0.95 (3H, m). LC/MS (Method A): 269.0 (M−H)−. HPLC (Method B) Rt 5.06 min (Purity: 97.4%).

reactant | methyl 2′-ethyl-2-(methoxymethyl)-1,1′-biphenyl-4-carboxylate | 0.0422 mol, 12 g | C(C)C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)OC)COC | C18H20O3
reactant | lithium hydroxide monohydrate | 0.1266 mol, 5.31 g | O.[OH-].[Li+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 2′-Ethyl-2-(methoxymethyl)-1,1′-biphenyl-4-carboxylic acid | 9 g, 80% | C(C)C1=C(C=CC=C1)C1=C(C=C(C=C1)C(=O)O)COC | C17H18O3
